US04032588
Synthesis of 2,6,10,15,19,23-hexamethyltetracosa-2,6,18,22-tetraene-11,13-diyne-10,15-diol:
A 5 l-capacity, 3-neck, round-bottom flask was charged with 114.7 g of dehydronerolidol, 305.9 g of ammonium chloride, 191.2 g of cuprous chloride, 765 ml of water and 765 ml of ethyl alcohol, and the mixture was agitated at room temperature for 18 hours while blowing oxygen thereinto. After completion of the reaction, none of the starting reactants were left. The reaction mixture was separated with a centrifuge, and the mother solution was extracted with benzene. Benzene and ethyl alcohol were removed from the organic layer by distillation, and the residue was dissolved in benzene and washed with water. The resulting benzene solution was dried with anhydrous calcium sulfate and the solids were removed from the dried solution by filtration. Distillation of benzene from the benzene solution gave 107.8 g of a viscous liquid of 2,6,10,15,19,23-hexamethyltetracosa-2,6,18,22-tetraene-11,13-diyne-10,15-diol.

reactant | dehydronerolidol | 114.7 g | CC(=CCC/C(=C/CCC(C)(C#C)O)/C)C | C15H24O
reactant | ammonium chloride | 305.9 g | [Cl-].[NH4+]
reactant | water | 765 ml | O | H2O
reactant | oxygen | O=O | O2
solvent | ethyl alcohol | 765 ml | C(C)O | C2H6O
product | 2,6,10,15,19,23-hexamethyltetracosa-2,6,18,22-tetraene-11,13-diyne-10,15-diol | 107.8 g | CC(C)=CCCC(=CCCC(C#CC#CC(CCC=C(CCC=C(C)C)C)(O)C)(O)C)C | C30H46O2
